US08009267B2
As represented by the following reaction pathway, after 30% fuming sulfuric acid (2.1-liter) was added to 300 g of acenaphtho[1,2-b]quinoxaline obtained by synthesis example 1 and the mixture was stirred at room temperature for 24 hours, the resultant was heated to 130° C. and stirred for 32 hours for reaction. While keeping the obtained solution at 40° C. to 50° C., 4.5-liter of ion exchange water was added for dilution, and the resultant was further stirred for 3 hours. The precipitate was filtered and recrystallized with sulfuric acid to obtain acenaphtho[1,2-b]quinoxaline-2,5-disulfonic acid as represented by the following formula (c).

reactant | sulfuric acid | 2.1-liter | S(O)(O)(=O)=O | H2O4S
reactant | acenaphtho[1,2-b]quinoxaline | 300 g | C1=CC=C2C=CC=C3C2=C1C1=NC2=CC=CC=C2N=C13 | C18H10N2
solvent | water | O | H2O
product | acenaphtho[1,2-b]quinoxaline-2,5-disulfonic acid | C1=C(C=C2C=C(C=C3C2=C1C1=NC2=CC=CC=C2N=C13)S(=O)(=O)O)S(=O)(=O)O | C18H10N2O6S2
